US04472305
Condensation of BocDPhgOH (5.0 g.) and HPheOMe hydrochloride salt (4.3 g.) by the mixed anhydride method using isobutyl chloroformate gave BocDPhg-PheOMe in 98% yield. De-t-butoxycarbonylation of BocDPhg-PheOMe (4.23 g.) using hydrogen chloride in ethyl acetate gave HDPhg-PheOMe in 100% yield. Condensation of BocProOPFP (3.81 g.) and HDPhg-PheOMe hydrochloride salt (3.5 g.) by the activated ester method gave BocPro-DPhg-PheOMe in 74% yield. Hydrazinolysis of Bocpro-DPhg-PheOMe (3.57 g.) gave BocPro-DPhg-PheNHNH2 in 80% yield.

reactant | BocDPhg-PheOMe | 4.23 g | N([C@H](C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C23H28N2O5
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | HDPhg-PheOMe | 100% yield | N[C@H](C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C18H20N2O3
